US05354828
A 500 ml polymerizer equipped with an agitating element was charged with 142 ml of decane, 100 ml of octene-1 and 8 ml of 7-methyl-1,6-octadiene. Into this solution elevated in temperature to 50° C. were introduced continuously hydrogen and nitrogen at rates of 1 liter and 50 liters per hour, respectively. The polymerizer was then charged with 0.625 mmol of triisobutylaluminum, 0.21 mmol of trimethylethoxysilane and 0.0125 mmol, in terms of titanium atom, of the solid titanium catalyst component [A] to initiate polymerization. After a thirty-minute polymerization at 50° C., the polymerization was stopped by the addition of small amounts of isobutyl alcohol to the system, and the resulting polymer solution was then poured in large amounts of methanol to separate out a copolymer. The copolymer was recovered and dried at 120° C. under reduced pressure overnight to give 12.4 g of octene-1/7-methyl-1,6-octadiene copolymer. The intrinsic viscosity [η], as measured in decahydronaphthalene at 135° C., of the thus obtained copolymer was 6.4 dl/g, and the content of 7-methyl-1,6-octadiene in the copolymer was 6.6 mol %.

reactant | decane | 142 ml | CCCCCCCCCC | C10H22
reactant | octene-1 | 100 ml | CCCCCCC=C | C8H16
reactant | 7-methyl-1,6-octadiene | 8 ml | CC(=CCCCC=C)C | C9H16
reactant | hydrogen | [H][H] | H2
reactant | triisobutylaluminum | 0.625 mmol | C(C(C)C)[Al](CC(C)C)CC(C)C
reactant | trimethylethoxysilane | 0.21 mmol | C[Si](OCC)(C)C | C5H14OSi
catalyst | titanium | [Ti] | Ti
solvent | methanol | CO | CH4O
solvent | isobutyl alcohol | C(C(C)C)O | C4H10O
product | octene-1 7-methyl-1,6-octadiene | 12.4 g | CCCCCCC=C.CC(=CCCCC=C)C | InChI=1S/C9H16.C8H16/c1-4-5-6-7-8-9(2)3;1-3-5-7-8-6-4-2/h4,8H,1,5-7H2,2-3H3;3H,1,4-8H2,2H3
